US05130301
A solution of 5.3 g (0.024 mol) of 6-hydroxy-5,6-dihydro-4-oxo-4H-pyrrolo[1,2-a]thieno[2,3-f][1,4]diazepine in 400 ml of dichloromethane is added in small portions to a suspension of 3.66 g (0.096 mol) of lithium aluminum hydride in 20 ml of ethyl ether. The reaction mixture is stirred at room temperature for 30 minutes and then heated to reflux for 6 hours. After cooling, the solution obtained is poured onto 250 g of ice. The emulsion formed is drained and the organic phase is then separated after settling has taken place. The aqueous phase is extracted with 200 ml of dichloromethane. The organic phases are combined, dried over calcium chloride, purified with animal charcoal and evaporated under vacuum. The residual oil is dissolved in 300 ml of ethyl ether and a stream of gaseous HCl is bubbled into this ethereal solution for 15 seconds. The precipitate is drained, washed with ether and recrystallized. 3.2 g of 5,6-dihydro-4H-pyrrolo[1,2-a]thieno -[2,3-f][1,4]diazepine are thereby obtained in the form of beige crystals, melting point 260° C. (isopropanol).

reactant | 6-hydroxy-5,6-dihydro-4-oxo-4H-pyrrolo[1,2-a]thieno[2,3-f][1,4]diazepine | 0.024 mol, 5.3 g | OC1C=2N(C3=C(C(N1)=O)SC=C3)C=CC2 | C10H8N2O2S
reactant | lithium aluminum hydride | 0.096 mol, 3.66 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | 5,6-dihydro-4H-pyrrolo[1,2-a]thieno -[2,3-f][1,4]diazepine | 3.2 g | C1=CSC=2CNCC=3N(C21)C=CC3 | C10H10N2S
